US05354729
5.34 g of nicotinic acid chloride hydrochloride was suspended in 50 ml of methylene chloride and 7.56 g of triethylamine was added thereto. After the resulting suspension was stirred at room temperature for 30 minutes, 3.88 g of 6-chloro-2,2-dimethyl-1,2-dihydroquinoline dissolved in 20 ml of methylene chloride was added thereto. Further, 1.00 g of 4-dimethylaminopyridine was added thereto. After refluxing the resulting solution mixture for 7 hours, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer separated from the aqueous layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue obtained was subjected to thin-layer chromatography (silica gel; ethyl acetate/hexane 1:1 (V/V)) to obtain 1.01 g of 6-chloro-2,2-dimethyl-1-nicotinoyl-1,2-dihydroquinoline (the present compound (1)).

reactant | nicotinic acid chloride hydrochloride | 5.34 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 7.56 g | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-2,2-dimethyl-1,2-dihydroquinoline | 3.88 g | ClC=1C=C2C=CC(NC2=CC1)(C)C | C11H12ClN
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.00 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 6-chloro-2,2-dimethyl-1-nicotinoyl-1,2-dihydroquinoline | 1.01 g | ClC=1C=C2C=CC(N(C2=CC1)C(C1=CN=CC=C1)=O)(C)C | C17H15ClN2O
